US04113877
To a solution of 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol (12 g., 0.04 mole) in tetrahydrofuranwater (10:3; v:v; 130 ml.) is added 1,1-dimethylethyl-2,4,5-trichlorophenyl carbonate (13 g., 0.044 mole) and triethylamine (4.44 g., 0.044 mole). The resulting pale yellow solution is stirred and heated at 60°-65° C. for 24 hours, cooled to 20° C. and diluted with water (700 ml.). The solid which precipitates is collected, air-dried, triturated with petroleum ether and dried to give 1,1-dimethylethyl N-[2-hydroxy-3-iodo-5-(1,1-dimethylethyl)phenylmethyl]carbamate as a colorless solid (14.3 g., 88%), m.p. 196°-197° with dec. Recrystallization from ethyl acetate affords an analytical sample of 1,1-dimethylethyl N-[2-hydroxy-3-iodo-5-(1,1-dimethylethyl)phenylmethyl]carbamate as colorless crystals, m.p. 199°-200° with dec.

reactant | 2-aminomethyl-4-(1,1-dimethylethyl)-6-iodophenol | 0.04 mole, 12 g | NCC1=C(C(=CC(=C1)C(C)(C)C)I)O | C11H16INO
reactant | 1,1-dimethylethyl-2,4,5-trichlorophenyl carbonate | 0.044 mole, 13 g | C(OC1=C(C(=C(C(=C1)Cl)Cl)C(C)(C)C)Cl)([O-])=O
reactant | triethylamine | 0.044 mole, 4.44 g | C(C)N(CC)CC | C6H15N
solvent | water | 700 ml | O | H2O
product | 1,1-dimethylethyl N-[2-hydroxy-3-iodo-5-(1,1-dimethylethyl)phenylmethyl]carbamate | OC1=C(C=C(C=C1I)C(C)(C)C)CNC(OC(C)(C)C)=O | C16H24INO3
